US06011031
4-[2-(2,3-Dihydro-1,4-benzoxazin-4-yl)ethoxy]benzaldehyde
Preparation of 2-(2,3-dihydro-1,4-benzoxazine-4-yl)ethyl methanesulfonate--To a solution of 2-(2,3-dihydro-1,4-benzoxazin-4-yl)ethanol (17.0 g, 94.9 mmol) in pyridine (200 ml) was added methanesulfonyl chloride (16.31 g, 142.0 mmol) dropwise at 0° C. The reaction mixture was stirred for 10 h at 25° C. Ice water (200 ml) was added and the mixture was extracted with ethyl acetate (2×100 ml). The combined organic extracts were washed with 2N HCl (3×75 ml), water (75 ml), brine (50 ml) and dried (Na2SO4). The solvent was evaporated under reduced pressure. The residue was triturated with 5% ethyl acetate in pet. ether to afford the title compound (15.0 g, 61%) as brown solid. mp. 92-95° C.

reactant | 2-(2,3-dihydro-1,4-benzoxazine-4-yl)ethyl methanesulfonate | CS(=O)(=O)OCCN1CCOC2=C1C=CC=C2 | C11H15NO4S
reactant | 2-(2,3-dihydro-1,4-benzoxazin-4-yl)ethanol | 94.9 mmol, 17.0 g | O1CCN(C2=C1C=CC=C2)CCO | C10H13NO2
reactant | methanesulfonyl chloride | 142.0 mmol, 16.31 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
product | 4-[2-(2,3-Dihydro-1,4-benzoxazin-4-yl)ethoxy]benzaldehyde | 15.0 g, 61% | O1CCN(C2=C1C=CC=C2)CCOC2=CC=C(C=O)C=C2 | C17H17NO3
